US08633175B2
Step 2: 2-Bromo-1,3-thiazole-4-carboxamide
To a suspension of 2-bromo-1,3-thiazole-4-carboxylic acid (3.82 g, 18.4 mmol) and a catalytic amount of DMF in CH2Cl2 (100 mL) at 0° C. was slowly added thionyl chloride (14 mL of a 2M solution in CH2Cl2). The resulting mixture was stirred for 12 h at the room temperature and then heated to reflux for 1 h. The mixture was concentrated to dryness in vacuo. The white solid obtained was taken up in ethyl acetate, added to a pre-cooled (0° C.) 9-10% aqueous ammonium hydroxide solution (90 ml) and stirred for 1 h at 0° C. The organic layer was separated and the aqueous phase was extracted twice with ethyl acetate. The combined ethyl acetate solution was washed with brine, dried over magnesium sulfate and concentrated in vacuo, affording the title compound was obtained as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.60 (s, 1H), 7.82 (s, 1H), 8.22 (s, 1H).

reactant | 2-bromo-1,3-thiazole-4-carboxylic acid | 18.4 mmol, 3.82 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | DMF | CN(C)C=O | C3H7NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | 90 ml | [OH-].[NH4+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-1,3-thiazole-4-carboxamide | BrC=1SC=C(N1)C(=O)N | C4H3BrN2OS
